US08106204B2
c) 4-(4-Aminophenyl)-6-chloro-2-diethylaminoquinoline
179 mg of iron powder were added to a solution of 380 mg of 6-chloro-2-diethylamino-4-(4-nitrophenyl)quinoline in 12.7 ml of glacial acetic acid and then 3.0 ml of concentrated hydrochloric acid were added dropwise, and the mixture was boiled at 70° C. for 2 hours. The solvent was removed by distillation, and the residue was mixed with water and made alkaline with 2N NaOH. This aqueous phase was extracted with ethyl acetate. The product is a dark brown viscous oil.

reactant | 6-chloro-2-diethylamino-4-(4-nitrophenyl)quinoline | 380 mg | ClC=1C=C2C(=CC(=NC2=CC1)N(CC)CC)C1=CC=C(C=C1)[N+](=O)[O-] | C19H18ClN3O2
reactant | hydrochloric acid | 3.0 ml | Cl | ClH
solvent | acetic acid | 12.7 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 179 mg | [Fe] | Fe
product | 4-(4-Aminophenyl)-6-chloro-2-diethylaminoquinoline | NC1=CC=C(C=C1)C1=CC(=NC2=CC=C(C=C12)Cl)N(CC)CC | C19H20ClN3
